US07678917B2
To a stirred solution of (1R,3S,4S)-3-azido-4-hydroxy-cyclopentanecarboxylic acid methyl ester (500 mg) at r.t. in acetonitrile/THF 3:1 (8 ml) under an argon atmosphere were added Ag2O (1.88 g) and ethyl iodide (2.18 ml). The black suspension was stirred for 18 h at 60° C., then cooled to r.t. The black solid was filtered off and washed with ethyl acetate. The filtrate was concentrated. The crude product was purified by column chromatography (silica gel; gradient: cyclohexane→cyclohexane/EtOAc 7:3) to give (1R,3S,4S)-3-azido-4-ethoxy-cyclopentanecarboxylic acid methyl ester (474 mg) as light yellow oil. MS: 214.1 ([M+H]+).

reactant | (1R,3S,4S)-3-azido-4-hydroxy-cyclopentanecarboxylic acid methyl ester | 500 mg | COC(=O)[C@@H]1C[C@@H]([C@H](C1)O)N=[N+]=[N-] | C7H11N3O3
reactant | ethyl iodide | 2.18 ml | C(C)I | C2H5I
solvent | acetonitrile THF | 8 ml | C(C)#N.C1CCOC1
product | (1R,3S,4S)-3-azido-4-ethoxy-cyclopentanecarboxylic acid methyl ester | 474 mg | COC(=O)[C@@H]1C[C@@H]([C@H](C1)OCC)N=[N+]=[N-] | C9H15N3O3
